US06762180B1
(5) 3-Z-[1-(4-(piperidin-1-yl-methyl)-anilino)-1-phenyl-methylene]-6-(2-hydroxyethyl-carbamoyl)-2-indolinone
Prepared from 3-Z-[1-(4-(piperidin-1-yl-methyl)-anilino)-1-phenyl-methylene]-6-carboxy-2-indolinone and ethanolamine/diisopropylethylamine Rf value: 0.5 (aluminium oxide, methylene chloride/methanol=20:1) C30H32N4O3

reactant | 3-Z-[1-(4-(piperidin-1-yl-methyl)-anilino)-1-phenyl-methylene]-6-carboxy-2-indolinone | N1(CCCCC1)CC1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC(=CC=C23)C(=O)O)=O)C=C1 | C28H27N3O3
reactant | ethanolamine diisopropylethylamine | C(O)CN.C(C)(C)N(CC)C(C)C
product | 3-Z-[1-(4-(piperidin-1-yl-methyl)-anilino)-1-phenyl-methylene]-6-(2-hydroxyethyl-carbamoyl)-2-indolinone | N1(CCCCC1)CC1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC(=CC=C23)C(NCCO)=O)=O)C=C1 | C30H32N4O3
